US04638067
7-[3-[(Ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-1-(1-methylethyl)-4-oxo-3-quinolinecaroxylic Acid
A solution of 0.57 g (2.0 mmol) of 6,7,8-trifluoro-1,4-dihydro-1-(1-methylethyl)-4-oxo-3-quinolinecarboxylic acid, 0.32 ml (2.2 mmol) of 3-[(ethylamino)methyl]pyrrolidine, 0.30 ml (2.0 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 15 ml of acetonitrile was heated under reflux for one hour. After cooling to room temperature the mixture was filtered and the solid washed with acetonitrile and methanol to give 0.58 g of the title compound, mp 230°-231° C.

reactant | 6,7,8-trifluoro-1,4-dihydro-1-(1-methylethyl)-4-oxo-3-quinolinecarboxylic acid | 2.0 mmol, 0.57 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C(C)C)C(=O)O)=O | C13H10F3NO3
reactant | 3-[(ethylamino)methyl]pyrrolidine | 2.2 mmol, 0.32 ml | C(C)NCC1CNCC1 | C7H16N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.0 mmol, 0.30 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 7-[3-[(Ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-1-(1-methylethyl)-4-oxo-3-quinolinecaroxylic Acid | 0.58 g | C(C)NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C(C)C)C(=O)O)=O)F | C20H25F2N3O3
